US06939874B2
A mixture of m-methoxyaniline (35 g, 0.28 mol) and diethyl ethoxymethylene malonate (74 g, 0.34 mol) was stirred 2 h at 110° C. under reduce pressure. The mixture was heated at 240° C. under reduced pressure for an additional 2 h. The resulting solid was suspended in CH2Cl2, filtered off and washed with CH2Cl2 to yield 7-methoxy-4-hydroxy-3-ethoxycarbonylquinoline as a white solid.

reactant | m-methoxyaniline | 0.28 mol, 35 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | diethyl ethoxymethylene malonate | 0.34 mol, 74 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-methoxy-4-hydroxy-3-ethoxycarbonylquinoline | COC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C13H13NO4
